US08802864B2
b) ethyl[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetate
In a round bottom flask, a solution of 1,1-dimethylethyl (3S)-3-[2-(ethyloxy)-2-oxoethyl]-1-pyrrolidinecarboxylate (64.1 g, 249 mmol) in 4M HCl in dioxane (600 mL, 2400 mmol) was stirred at room temperature for 1 h. Analysis of an aliquot by LCMS confirmed complete removal of the BOC group from the starting material. The reaction was concentrated in vacuo to give a pale orange liquid. A solution of this intermediate as the HCl salt in dichloromethane (500 mL) was treated with N,N-diisopropylethylamine (87 mL, 498 mmol) and stirred for 5 min at room temperature. The yellow solution was cooled to 0° C. and was treated with cyclopropanecarbonyl chloride (24.9 mL, 274 mmol) by syringe. The resultant orange solution was allowed to warm to room temperature and stirred for 1 h. The reaction was diluted with water (400 mL), the layers were separated, and the aqueous layer was extracted with 200 mL dichloromethane. The organic layers were combined, dried over MgSO4, concentrated in vacuo, and pumped under high vacuum to give the title compound as an orange liquid (249 mmol, quantitative). MS(ES)+ m/e 226.2 [M+H]+, 451.1 [2M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-[2-(ethyloxy)-2-oxoethyl]-1-pyrrolidinecarboxylate | 249 mmol, 64.1 g | C(C)OC(C[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
reactant | dioxane | 2400 mmol, 600 mL | O1CCOCC1 | C4H8O2
reactant | N,N-diisopropylethylamine | 498 mmol, 87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropanecarbonyl chloride | 274 mmol, 24.9 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | HCl | 4M | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | ethyl[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetate | 249 mmol | C(C)OC(C[C@H]1CN(CC1)C(=O)C1CC1)=O | C12H19NO3
